US07323475B2
c) [(4-Benzyloxy-l-dimethylcarbamoyl-isoquinoline-3-carbonyl)-amino]-acetic acid benzyl ester
To a mixture of 4-benzyloxy-1-dimethylcarbamoyl-isoquinoline-3-carboxylic acid (210 mg, 0.6 mmol), NEt3 (175 μl, 1.25 mmol), and CH2Cl2 (12 ml) cooled with an ice bath was added ClCO2iBu (83 μl, 0.63 mmol) with stirring. After stirring for 15 min glycine benzyl ester hydrochloride (127 mg, 0.63 mmol) was added and the mixture was stirred for another 15 min before the ice bath was removed. Stirring was then continued at ambient temperature for additional 1.5 h. Subsequently; the mixture was concentrated in vacuo. To the residue was added water (10 ml) and a few drops of aqueous 6N HCl. The mixture was extracted with EtOAc (15 ml). The organic phase was dried over MgSO4 and concentrated in vacuo to give a yellowish gum. Purification by flash column chromatography on silica gel using hexanes:EtOAc=7:3 as the eluent gave the title compound as a slightly yellowish gum (211 mg); MS-(+)-ion: M+1=498.1.

reactant | 4-benzyloxy-1-dimethylcarbamoyl-isoquinoline-3-carboxylic acid | 0.6 mmol, 210 mg | C(C1=CC=CC=C1)OC1=C(N=C(C2=CC=CC=C12)C(N(C)C)=O)C(=O)O | C20H18N2O4
reactant | NEt3 | 1.25 mmol, 175 μl | CCN(CC)CC | C6H15N
reactant | ClCO2iBu | 0.63 mmol, 83 μl | ClC(=O)OCC(C)C | C5H9ClO2
reactant | glycine benzyl ester hydrochloride | 0.63 mmol, 127 mg | Cl.C(C1=CC=CC=C1)OC(CN)=O
solvent | CH2Cl2 | 12 ml | C(Cl)Cl | CH2Cl2
product | [(4-Benzyloxy-l-dimethylcarbamoyl-isoquinoline-3-carbonyl)-amino]-acetic acid benzyl ester | C(C1=CC=CC=C1)OC(CNC(=O)C=1N=C(C2=CC=CC=C2C1OCC1=CC=CC=C1)C(N(C)C)=O)=O | C29H27N3O5
